US07732504B2
44.9 g (0.15 mol) 2-Benzyl-1-(4-fluorophenyl)-2-dimethylamino-1-butanone and 61.08 g (1.05 mol) ethanolamine are dissolved in 400 ml dimethylacetamide. 41.5 (0.3 mol) Potassium carbonate are added and the suspension is heated to 140° C. while stirring. The reaction mixture is kept at this temperature during 16 hours, cooled to room temperature and diluted with water. The aqueous phase is several times extracted with ethyl acetate, the combined organic extracts washed with water and dried over magnesium sulfate. Evaporation of the solvent gives the crude product as a yellowish-brown oil. The product is purified by chromatography on silica gel (eluent: petroleum ether/ethyl acetate 2:1→1:1). The fractions containing the product are collected to give a slightly yellowish solid product. Recrystallisation from ethyl acetate/hexane gave 2-benzyl-1-[4-(2-hydroxyethylamino)phenyl]-2-dimethylamino-1-butanone as slightly yellowish crystals melting at 109-111° C. Yield: 34.7 g (68%). 1H-NMR data are in agreement with the proposed structure.

reactant | 2-Benzyl-1-(4-fluorophenyl)-2-dimethylamino-1-butanone | 0.15 mol, 44.9 g | C(C1=CC=CC=C1)C(C(=O)C1=CC=C(C=C1)F)(CC)N(C)C | C19H22FNO
reactant | ethanolamine | 1.05 mol, 61.08 g | C(O)CN | C2H7NO
reactant | Potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylacetamide | 400 ml | CC(=O)N(C)C | C4H9NO
solvent | water | O | H2O
product | 2-benzyl-1-[4-(2-hydroxyethylamino)phenyl]-2-dimethylamino-1-butanone | C(C1=CC=CC=C1)C(C(=O)C1=CC=C(C=C1)NCCO)(CC)N(C)C | C21H28N2O2
